US07122534B2
D) 5-Methoxytricyclo[7.2.1.02.7]dodeca-2(7),3,5,10-tetraene-8-one
Trifluoro-methanesulfonic acid 2-(cyclopent-3-enecarbonyl)-4-methoxy-phenyl ester (19.09 g, 54.5 mmol) was dissolved in DMF (100 mL) under a N2 atmosphere and treated with dilsopropylethylamine (10.6 g, 82.0 mmol), potassium acetate (1.07 g, 11.0 mmol) and 1,3-bis(diphenylphosphino)propane (2.25 g, 5.46 mmol). This mbdure was stirred and degassed (3 vacuum/N2 purge cycles) then treated with palladium acetate (0.49 g, 2.18 mmol). After stirring 20 min. the mixture was warmed to 120° C. for 18 hours, cooled and poured into brine (300 mL). The resulting mixture was extracted with ElOAc (4×100 mL) and the combined organic layer was washed with a sat. aq. NaHCO3 soin. (100 mL), H2O (100 mL) brine (100 mL), dried (MgSO4), filtered, concentrated and chromatographed on silica gel to provide an oil (10.4 g, 95%). (elute w/7%OAc/hexanes). 1H NMR (CDCl3) δ 7.41 (d, J=2.8 Hz, 1H), 7.03 (d, J=8.0 Hz, 1H), 6.88 (dd, J=8.0,2.8 Hz, 1H), 6.72 (dd, J=5.2,3.0 Hz, 1H), 6.06 (dd, J=5.2,3.2 Hz, 1H), 3.77 (s, 3H), 3.60 (dd, J=4.3,3.2 Hz, 1H), 3.44 (dd, J=5.0,3.4 Hz, 1H), 2.65 (AB m, 1H), 2.56 (br AB d, J=10.5 Hz, 1H). 13C NMR (CDCl3) 196.11, 158.87, 145.90, 140.34, 130.295, 129.94, 128.14, 119.42, 111.90, 55.61, 55.48, 49.08, 45.97. GCMS m/e 200 (M+).

reactant | Trifluoro-methanesulfonic acid 2-(cyclopent-3-enecarbonyl)-4-methoxy-phenyl ester | 54.5 mmol, 19.09 g | C1(CC=CC1)C(=O)C1=C(C=CC(=C1)OC)OS(=O)(=O)C(F)(F)F | C14H13F3O5S
reactant | potassium acetate | 11.0 mmol, 1.07 g | C(C)(=O)[O-].[K+]
reactant | 1,3-bis(diphenylphosphino)propane | 5.46 mmol, 2.25 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | brine | 300 mL | [Cl-].[Na+].O
catalyst | palladium acetate | 2.18 mmol, 0.49 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Methoxytricyclo[7.2.1.02.7]dodeca-2(7),3,5,10-tetraene-8-one | 10.4 g, 95% | COC=1C=CC=2C3C=CC(C(C2C1)=O)C3 | C13H12O2
